US07326718B2
15. 6-(N,N-Dimethylamino-carbonyl)-2,3-dimethyl-8-(trans-1,2,3,4-tetrahydro-2-hydroxy-1-naphthalenyloxy)-imidazo[1,2-a]pyridine hydrochloride
To a solution of 1.0 g (4.3 mmol) 6-(N,N-dimethylamino-carbonyl)-8-hydroxy-2,3-dimethyl-imidazo[1,2-a]pyridine in 20 ml ethanol and 5 ml water are added 1.25 g (8.6 mmol) 1,2-epoxy-1,2,3,4-tetrahydro-naphthalene and 1.2 ml triethylamine. After 16 h at 80° C., the mixture is cooled down and partitioned between dichloromethane and saturated aqueous ammonium chloride. The organic layer is separated, dried over anhydrous magnesium sulphate and evaporated. Purification of the residue is achieved by column chromatography on silica gel using ethyl acetate:light petroleum ether (1:1), then dichloro-methane:methanol (20:1). The oil thus obtained is dissolved in ethyl acetate and treated with saturated hydrogen chloride in diethyl ether to give a precipitate which is collected and dried to yield 0.6 g (34%) of the title compound as a colourless solid (m.p. 129° C.).

reactant | 6-(N,N-dimethylamino-carbonyl)-8-hydroxy-2,3-dimethyl-imidazo[1,2-a]pyridine | 4.3 mmol, 1.0 g | CN(C(=O)C=1C=C(C=2N(C1)C(=C(N2)C)C)O)C | C12H15N3O2
reactant | 1,2-epoxy-1,2,3,4-tetrahydro-naphthalene | 8.6 mmol, 1.25 g | O1C2C1CCC1=CC=CC=C21 | C10H10O
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-(N,N-Dimethylamino-carbonyl)-2,3-dimethyl-8-(trans-1,2,3,4-tetrahydro-2-hydroxy-1-naphthalenyloxy)-imidazo[1,2-a]pyridine hydrochloride | 0.6 g, 34% | Cl.CN(C(=O)C=1C=C(C=2N(C1)C(=C(N2)C)C)O[C@H]2[C@@H](CCC1=CC=CC=C21)O)C | InChI=1S/C22H25N3O3.ClH/c1-13-14(2)25-12-16(22(27)24(3)4)11-19(21(25)23-13)28-20-17-8-6-5-7-15(17)9-10-18(20)26;/h5-8,11-12,18,20,26H,9-10H2,1-4H3;1H/t18-,20-;/m1./s1
